US05763489
To a solution of 1-[2-(N,N-diphenylcarbamoyloxy)ethyl]-5-t-butyldiphenylsilyloxy-3,4-dihydronaphthalene (2.0 g) in THF (tetrahydrofuran) (20 ml) was added BH3 (4.8 ml, 1M solution in THF) at 0° C. under N2. After being stirred for 12 hours at the room temperature, 2N--NaOH solution (1.5 ml) and H2O2 (1.0 ml, 35% solution) were added to the solution and stirred for 4 hours. The mixture was poured into a mixture of ethyl acetate and water. The organic layer was washed with 1N--HCl solution, sat. NaHCO3, and brine, dried over MgSO4, and evaporated in vacuo. The residue was purified by chromatography on silica gel to afford (trans)-1-[2-(N,N-diphenylcarbamoyloxy)ethyl]-2-hydroxy-5-t-butyldiphenylsilyloxy-1,2,3,4-tetrahydronaphthalene (1.1 g).

reactant | 1-[2-(N,N-diphenylcarbamoyloxy)ethyl]-5-t-butyldiphenylsilyloxy-3,4-dihydronaphthalene | 2.0 g | C1(=CC=CC=C1)N(C(=O)OCCC1=CCCC2=C(C=CC=C12)O[Si](C1=CC=CC=C1)(C1=CC=CC=C1)C(C)(C)C)C1=CC=CC=C1 | C41H41NO3Si
reactant | NaOH | 1.5 ml | [OH-].[Na+]
reactant | H2O2 | 1.0 ml | OO | H2O2
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | THF | 20 ml | O1CCCC1 | C4H8O
solvent | water | O | H2O
product | (trans)-1-[2-(N,N-diphenylcarbamoyloxy)ethyl]-2-hydroxy-5-t-butyldiphenylsilyloxy-1,2,3,4-tetrahydronaphthalene | 1.1 g | C1(=CC=CC=C1)N(C(=O)OCC[C@H]1[C@@H](CCC2=C(C=CC=C12)O[Si](C1=CC=CC=C1)(C1=CC=CC=C1)C(C)(C)C)O)C1=CC=CC=C1 | C41H43NO4Si
